Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
alcohol / amphotericin B / anticholinergic drigs / dextran 
sulfate / dextromethoraphan / ethanolamine / polymyxin B / 
quinine / vancomycin / apha-adrenergic blockers / 
beta-adrenergic blockers / Opioids-Meperidine & Related / 
Toradol / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
atracurium / doxacurium / d-tubocurarine / metocurine / 
mivacurium / succinylcholine / benzocaine / chloroprocaine / 
procaine / tetracine
 
Attending: ___.
 
Chief Complaint:
Nausea, Vomiting, Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with cutaneous mastocytosis and asthma is
transferred to the ___ ___ from ___ after 
presenting
there with abdominal pain and multiple episodes of nausea and
vomiting. The symptoms started at midnight and continued for a
few hours. He then presented to the OSH ___ around 230 am and was
found to have a small bowel obstruction on CT scan with an
abnormal appearing fecalized small bowel loop. An NGT was placed
with >500cc out and relief of pain and nausea. The surgery team
at the ___ wanted to take the patient to the operating room but
the patient and family requested transfer to ___ for further
care. 

On my evaluation, the patient reports feeling much better than
earlier in the day when he first arrived at the OSH. He has no
further nausea and only mild abdominal pain near his umbilicus.
Last BM and last gas were ___. He passed gas in the ___ 
___
after my evaluation.

Of note, the patient had recently presented to ___ 2 weeks ago
with similar symptoms and had report of normal lab values at 
that
time. He was observed for a few hours and felt better and was
discharged. He had a presentation 6 months ago as well to ___ and was admitted for a day and discharged home. He had
similar symptoms at that time and reportedly had a normal CT 
scan
and MRE. He had seen a GI doctor as an outpatient but has never
had scopes and his allergist told him that he did not think he
had systemic mastocytosis. His mom remembers one time when the
patient had bloody stools after vigorous exercise but it self
resolved, otherwise can't think of additional GI presentations 
to
the hospital other than what is outlined here.

Today at the OSH, the notes describe waxing and waning symptoms.
At first his symptoms improved with medication and then he had
return of his symptoms and an increase in vomiting not resolved
by multiple doses of pain and nausea medications so a CT scan 
was
performed. No contrast was used because of his mastocytosis. 

CT showed SBO, patient had NGT placed with 200-300 out and 500 
of
emesis prior to that. His symptoms eventually resolved after 
over
12 hours in the ___. His family requested transfer to ___ for
further care.
 
Past Medical History:
asthma, allergic rhinitis, cutaneous mastocytosis diagnosed
at age ___, previously had over 50 or more skin lesions 
that
have resolved over time, follows with dermatologist and
specialist at ___, must avoid triggers which are mostly
medications and are listed in the allergies, of note patient is
not able to  have PO or IV contrast but is able to have
gadolinium

 
Social History:
___
Family History:
mother has ___ disease and is a patient of Dr.
___ comments that she requires rectal dilations,
siblings have reflux and esophagitis, father has reflux

 
Physical Exam:
VS: AVSS
Gen: well appearing male, NAD
HEENT: no lymphadenopathy, moist mucous membranes
Lungs: CTAB, breathing comfortably on RA
Heart: rrr
Abd: soft, normal bowel sounds, non-TTP, no rebound or guarding
Incisions: none
Extremities: wwp
 
Pertinent Results:
___ 07:24AM BLOOD WBC-8.8 RBC-4.98 Hgb-13.6* Hct-42.2 
MCV-85 MCH-27.3 MCHC-32.2 RDW-12.4 RDWSD-37.2 Plt ___
___ 07:24AM BLOOD Glucose-84 UreaN-10 Creat-1.1 Na-137 
K-4.2 Cl-102 HCO3-28 AnGap-___ presented to the ___ ___ as a transfer from 
___ for higher level of care. On presentation, his 
CT from OS___ demonstrated findings consistent with small bowel 
obstruction. His initial symptoms of nausea, vomiting and 
abdominal for which he was admitted abated during his brief stay 
at ___ with conservative management, including placement of an 
NG Tube, administration of maintenance IVF and observation. 
There was no bilious fluid drained from the NGT, and ___ 
tolerated a regular diet upon it's removal. He was passing 
flatus and had a bowel movement prior to discharge on ___.
 
Medications on Admission:
Albuterol Inhaler PRN
Zyrtec PRN
Singulair Inhaler PRN
Omeprazole 20 mg PO daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Colorectal Service at ___ under the 
care of Dr. ___ the ___ team for medical and 
non-surgical management of a small bowel obstruction. Shortly 
after admission, you showed signs of improvement, i.e. passing 
gas and having bowel movements. Your NG Tube showed minimal to 
no output and you began to tolerate a regular diet. You are to 
follow up with your appointments as below. 
 
Followup Instructions:
___